US04251539
3-tert.-Butyl-5-[2-(2-hydroxy-3-cyclopropylaminopropoxy)-styryl]-isoxazole
7 g (0.023 mole) of 3-tert.-butyl-5-[2-(2,3-epoxypropoxy)-styryl]-isoxazole and 2.7 g (0.047 mole) of cyclopropylamine are reacted by the method described in Example 1. 5.8 g of an oil are obtained; this is dissolved in diethyl ether and precipitated with 2 g of oxalic acid dissolved in a small amount of ethanol. 2.7 g (26% of theory) of colorless crystals are obtained. Melting point 170°-174° C.

reactant | 3-tert.-butyl-5-[2-(2,3-epoxypropoxy)-styryl]-isoxazole | 0.023 mole, 7 g | C(C)(C)(C)C1=NOC(=C1)C=CC1=C(C=CC=C1)OCC1CO1 | C18H21NO3
reactant | cyclopropylamine | 0.047 mole, 2.7 g | C1(CC1)N | C3H7N
product | 3-tert.-Butyl-5-[2-(2-hydroxy-3-cyclopropylaminopropoxy)-styryl]-isoxazole | 5.8 g | C(C)(C)(C)C1=NOC(=C1)C=CC1=C(C=CC=C1)OCC(CNC1CC1)O | C21H28N2O3
